US04923886
Phosphorus pentachloride (13.35 g) was added in small portions to a suspension of 2-methyl-4-thiazolecarboxylic acid (7.65 g) in dry dichloromethane over a period of 10 minutes. The resulting mixture was vigorously stirred for 1.5 hours at room temperature and then concentrated under reduced pressure. The residue was dissolved in dry benzene (40 ml) and the mixture was concentrated under reduced pressure to give yellow powders of 2-methyl-4-thiazolecarbonyl chloride (9.0 g).

reactant | Phosphorus pentachloride | 13.35 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-methyl-4-thiazolecarboxylic acid | 7.65 g | CC=1SC=C(N1)C(=O)O | C5H5NO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-methyl-4-thiazolecarbonyl chloride | 9.0 g | CC=1SC=C(N1)C(=O)Cl | C5H4ClNOS
